US04661489
2-(Cyclohexylthiocarbonyl)-4-oxo-1,2,3,4,6,7,8,12b-octahydropyrazino[2,1-a][2]benzazepine
Methyl cyclohexanecarbodithioate (0.24 g) was added to a solution of 4-oxo-1,2,3,4,6,7,8,12b-octahydropyrazino[2,1-a][2]benzazepine (0.3 g) in dimethylformamide (5 ml). The mixture was refluxed for 4 h, cooled and poured into water. This was extracted with diethyl ether; the ether solution was dried (MgSO4) and evaporated. The residue was purified by column chromatography (SiO2, diethyl ether).

reactant | Methyl cyclohexanecarbodithioate | 0.24 g | C1(CCCCC1)C(=S)SC | C8H14S2
reactant | 4-oxo-1,2,3,4,6,7,8,12b-octahydropyrazino[2,1-a][2]benzazepine | 0.3 g | O=C1CNCC2N1CCCC1=C2C=CC=C1 | C13H16N2O
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(Cyclohexylthiocarbonyl)-4-oxo-1,2,3,4,6,7,8,12b-octahydropyrazino[2,1-a][2]benzazepine | C1(CCCCC1)C(=S)N1CC2N(CCCC3=C2C=CC=C3)C(C1)=O | C20H26N2OS
